US05804588
5-Bromo-8-hydroxyquinaldine
Tetrabutylammonium fluoride (54 ml, 1M in tetrahydrofuran) was added dropwise to a stirred solution of 5-bromo-8-t-butyldimethylsilyloxyquinaldine (16.3 g) in tetrahydrofuran (500 ml). After stirring for 10 minutes the reaction was diluted with dichloromethane (500 ml) and extracted with water (3×200 ml). The organic phase was dried over magnesium sulphate and concentrated in vacuo. Purification by recrystallisation from aqueous methanol afforded the title compound as an off white solid (7.7 g).

reactant | Tetrabutylammonium fluoride | 1M, 54 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-bromo-8-t-butyldimethylsilyloxyquinaldine | 16.3 g | BrC1=C2C=CC(=NC2=C(C=C1)O[Si](C)(C)C(C)(C)C)C | C16H22BrNOSi
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 5-Bromo-8-hydroxyquinaldine | BrC1=C2C=CC(=NC2=C(C=C1)O)C | C10H8BrNO
